US04952600
(Racemic)-N-[4-[3-(Acetyloxy)-1-pyrrolidinyl]-2-butynyl]-N-methyl acetamide
A mixture of 1.17 g of 3-acetoxy pyrrolidine, 1.2 g of N-methyl-N-propargyl acetamide, 465 mg of paraformaldehyde, 200 mg of cuprous chloride, 1.5 ml of acetic acid and 50 ml of dioxane was stirred at reflux under argon for 75 minutes. A 100 ml portion of dichloromethane was added followed by the addition of 50 ml of 10% aqueous sodium bicarbonate. The phases were separated, sodium chloride was added to the aqueous phase and the aqueous phase was reextracted with dichloromethane. The organic solutions were combined, dried, filtered and concentrated. The residue was purified by chromatography (alumina), giving 1.43 g of the desired product as a yellow oil.

reactant | 3-acetoxy pyrrolidine | 1.17 g | C(C)(=O)OC1CNCC1 | C6H11NO2
reactant | N-methyl-N-propargyl acetamide | 1.2 g | CN(C(C)=O)CC#C | C6H9NO
reactant | paraformaldehyde | 465 mg | C=O | CH2O
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | (Racemic)-N-[4-[3-(Acetyloxy)-1-pyrrolidinyl]-2-butynyl]-N-methyl acetamide | 1.43 g | C(C)(=O)OC1CN(CC1)CC#CCN(C(C)=O)C | C13H20N2O3
